US07348456B2
Step B: 3-(3-Bromophenyl)-2-butanone.
To a solution of 3-bromophenylacetone (4.7 g, 22 mmol) in acetonitrile (100 mL) was added methyl iodide (1.4 mL, 22 mmol) and cesium carbonate (14 g, 44 mmol). After stirring at room temperature for 17 h, the reaction mixture was poured into ether (100 mL) and water (100 mL). The organic layer was separated and the aqueous layer extracted with ether. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated to dryness to give the title compound. 1H NMR (400 MHz, CD3OD): δ 7.45-7.40 (m, 2H), 7.3-7.2 (m, 2H), 3.87 (q, 1H), 2.06 (s, 3H), 1.34 (d, 3H).

reactant | 3-bromophenylacetone | 22 mmol, 4.7 g | BrC=1C=C(C=CC1)CC(C)=O | C9H9BrO
reactant | methyl iodide | 22 mmol, 1.4 mL | CI | CH3I
reactant | cesium carbonate | 44 mmol, 14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 3-(3-Bromophenyl)-2-butanone | BrC=1C=C(C=CC1)C(C(C)=O)C | C10H11BrO
